US07749999B2
5-tert-Butyl-2-p-tolyl-2H-pyrazole-3-carboxylic acid ethyl ester (R=Me).
To a round bottom flask containing 5-tert-Butyl-2H-pyrazole-3-carboxylic acid ethyl ester (0.5 g, 2.6 mmol) stirring in 25 mL DCM was added Pyridine (0.95 mL, 11.7 mmol), p-tolylboronic acid (1.1 g, 8.1 mmol), Cu(OAc)2 (0.75 g, 4.1 mmol) and 4 A molecular sieves (0.75 g). The reaction stirred at room temperature for 14 h under air. The resulting mixture was filtered through a pad of diatomaceous earth and the filtrate concentrated in vacuo to afford a light green solid. The crude material was purified by Flash chromatography to afford (0.64 g, 83%) the desired product as a clear oil (0-50% EtOAc:hexanes on silica gel). Expected mass=286. Observed mass=287.

reactant | 5-tert-Butyl-2H-pyrazole-3-carboxylic acid ethyl ester | 2.6 mmol, 0.5 g | C(C)OC(=O)C=1NN=C(C1)C(C)(C)C | C10H16N2O2
reactant | Pyridine | 11.7 mmol, 0.95 mL | N1=CC=CC=C1 | C5H5N
reactant | p-tolylboronic acid | 8.1 mmol, 1.1 g | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 4.1 mmol, 0.75 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 5-tert-Butyl-2-p-tolyl-2H-pyrazole-3-carboxylic acid ethyl ester | 0.64 g | C(C)OC(=O)C=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C17H22N2O2
